US06482824B1
2-(4-Acetamidobenzenesulphonyl)-3-carboxy-3,6-dihydro-6-(4-ethoxyphenyl)-5-methyl-2H-1,2-oxazine.
To a stirred solution of 2-(4-acetamidobenzenesulphonyl)-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine (1.02 g, 2.28 mmol) in acetone (20 ml) at 10° C. was added a solution of aaueous chromic acid (8M, 1.2 ml) dropwise. Stirred at room temperature for 2.5 h with addition of aqueous chromic acid (8M, 1.2 ml and 0.4ml) at intervals. Aqueous sodium metabisulphite was then added to terminate the reaction and the mixture concentrated in vacuo. The concentrate was diluted with water and extracted twice with ethyl acetate. The combined extracts was washed with water and brine, dried over magnesium sulphate, filtered and evaporated to a foam. 2-(4-Acetamidobenzenesulphonyl)-3-carboxy-3,6-dihydro-6-(4-ethoxyphenyl)-5-methyl-2H-1,2-oxazine crystallised as a white power from chloroform. 1H NMR (CDCl3)δ 1.40(3H, t) 1.48(3H, s), 2.15(2H, s), 4.01(2H, q), 4.97(1H, d), 5.29(1H, s), 5.85(1H, d), 6.75(2H, d), 7.19(2H, d), 7.68(2H, d), 7.22(2H, d).

reactant | 2-(4-acetamidobenzenesulphonyl)-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine | 2.28 mmol, 1.02 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N1OC(C(=CC1CO)C)C1=CC=C(C=C1)OCC | C22H26N2O6S
reactant | chromic acid | 8M, 1.2 ml | [Cr](=O)(=O)(O)O
reactant | chromic acid | 8M, 1.2 ml | [Cr](=O)(=O)(O)O
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(4-Acetamidobenzenesulphonyl)-3-carboxy-3,6-dihydro-6-(4-ethoxyphenyl)-5-methyl-2H-1,2-oxazine | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N1OC(C(=CC1C(=O)O)C)C1=CC=C(C=C1)OCC | C22H24N2O7S
